US05254135
Preparation of N-(6-indolyl)-1,3-oxazolidin-2-one
60 ml of methanol are added to 120 ml of a 30% solution of sodium methylate in methanol and 0.25 mol (60 g) of 6-(β-chloroethoxycarbonyl)aminoindole (prepared in accordance with the first step of Example 1) are then added, with stirring. The temperature reaches 50° C. Stirring is continued for 15 minutes after the end of the addition. The precipitate formed is drained, washed with alcohol and then dried. It melts at 199° C.

reactant | sodium methylate | C[O-].[Na+]
reactant | 6-(β-chloroethoxycarbonyl)aminoindole | 0.25 mol, 60 g | ClCCOC(=O)NC1=CC=C2C=CNC2=C1 | C11H11ClN2O2
solvent | methanol | CO | CH4O
solvent | methanol | 60 ml | CO | CH4O
product | N-(6-indolyl)-1,3-oxazolidin-2-one | N1C=CC2=CC=C(C=C12)N1C(OCC1)=O | C11H10N2O2
